US07589232B2
Step a) Formation of methyl (2E)-3-(4-{[(4-dec-1-ynylbenzyl)amino]methyl}phenyl)-acrylate
The title compound was prepared following the procedure A using 4-dec-1-ynylbenz-aldehyde and methyl (2E)-3-[4-(aminomethyl)phenyl]acrylate. (purification by flash chromatography on SiO2, EtOAc/c-Hex 20/80 to 50/50 for about 30 min.) as a white solid (73%). 1H NMR (CDCl3) δ: 7.56 (d, 1H, J=16.2 Hz), 7.36 (d, 2H, J=8.3 Hz), 7.23 (m, 4H), 7.12 (m, 2H), 6.29 (d, 1H, J=15.8 Hz), 3.69-3.63 (m, 7E), 2.26 (m, 2H), 1.56-1.40 (m, 2H), 1.38-1.10 (m, 10H), 0.76 (m, 3H). M+ (ESI): 418.3. HPLC, Rt: 4.5 min (purity: 100%).

reactant | 4-dec-1-ynylbenz-aldehyde | C(#CCCCCCCCC)C1=CC=C(C=O)C=C1 | C17H22O
reactant | methyl (2E)-3-[4-(aminomethyl)phenyl]acrylate | NCC1=CC=C(C=C1)/C=C/C(=O)OC | C11H13NO2
product | methyl (2E)-3-(4-{[(4-dec-1-ynylbenzyl)amino]methyl}phenyl)-acrylate | C(#CCCCCCCCC)C1=CC=C(CNCC2=CC=C(C=C2)/C=C/C(=O)OC)C=C1 | C28H35NO2
